US05859014
substituting 1-(4-fluoro-2-methoxyphenyl)piperazine and 1-(3-chloropropyl)-3-benzyl-5-methyl-2,4(1H,3H)-pyrimidinedione gave 3-benzyl-1-{3-[4-(4-fluoro-2-methoxyphenyl)piperazin-1-yl]propyl}-5-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride, m.p. 210°-212° C.; Anal.: Calcd. for C26H31FN4O3.(HCl)2 : C, 57.88; H, 6.16; N, 10.38%; Found: C, 57.50; H, 6.18; N, 10.62%;

reactant | 1-(4-fluoro-2-methoxyphenyl)piperazine | FC1=CC(=C(C=C1)N1CCNCC1)OC | C11H15FN2O
reactant | 1-(3-chloropropyl)-3-benzyl-5-methyl-2,4(1H,3H)-pyrimidinedione | ClCCCN1C(N(C(C(=C1)C)=O)CC1=CC=CC=C1)=O | C15H17ClN2O2
product | 3-benzyl-1-{3-[4-(4-fluoro-2-methoxyphenyl)piperazin-1-yl]propyl}-5-methyl-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.C(C1=CC=CC=C1)N1C(N(C=C(C1=O)C)CCCN1CCN(CC1)C1=C(C=C(C=C1)F)OC)=O | InChI=1S/C26H31FN4O3.ClH/c1-20-18-30(26(33)31(25(20)32)19-21-7-4-3-5-8-21)12-6-11-28-13-15-29(16-14-28)23-10-9-22(27)17-24(23)34-2;/h3-5,7-10,17-18H,6,11-16,19H2,1-2H3;1H
